US08119633B2
2-(2-(3,4-Dichlorophenylsulfonyl)-1,2,3,4-tetrahydroisoquinolin-1-yl)-acetic acid S1
To a mixture of methyl 2-(2-(3,4-dichlorophenylsulfonyl)-1,2,3,4-tetrahydroisoquinolin-1-yl)-acetate (14.84 g, 33.2 mmol), THF (200 ml) and water (120 ml) was a and stirred at room temperature. After 4 h, aqueous NaOH solution (6 M, 60 ml) was again added, and stirring was carried out overnight at room temperature. The reaction solution was concentrated under reduced pressure. 6 M HCl solution (125 ml) and DCM (400 ml) were added. After phase separation, the organic phase was washed with saturated NaCl solution, dried (sodium sulfate) and concentrated. For purification, the product was recrystallised from 2-propanol.

reactant | methyl 2-(2-(3,4-dichlorophenylsulfonyl)-1,2,3,4-tetrahydroisoquinolin-1-yl)-acetate | 33.2 mmol, 14.84 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1C(C2=CC=CC=C2CC1)CC(=O)OC | C18H17Cl2NO4S
reactant | THF | 200 ml | C1CCOC1 | C4H8O
reactant | NaOH | 6 M, 60 ml | [OH-].[Na+]
solvent | water | 120 ml | O | H2O
product | 2-(2-(3,4-Dichlorophenylsulfonyl)-1,2,3,4-tetrahydroisoquinolin-1-yl)-acetic acid | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1C(C2=CC=CC=C2CC1)CC(=O)O | C17H15Cl2NO4S
